US09029399B2
Preparation of the title compound 1-(2-chloropyridin-4-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (1A)
Copper iodide (6.5 mg, 0.034 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (4.8 mg, 0.034 mmol) and potassium phosphate (219.3 mg, 1.034 mmol) were added to a solution of 1,4-dioxane (5 mL) previously purged with nitrogen (10 minutes). The reaction mixture was purged with argon for 10 minutes, followed by the addition of 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 70 mg, 0.344 mmol) and 2-chloro-4-iodopyridine (99.09 mg, 0.413 mmol). The reaction mixture was heated to reflux at 120° C. overnight. The reaction was monitored by TLC (10% MeOH in chloroform). The reaction mixture was cooled and partitioned between ethyl acetate and water. The organic layer was concentrated to yield the crude product. Purification by column chromatography on silica gel (2% methanol in CHCl3) afforded 42 mg of the product (41% yield).

reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.034 mmol, 4.8 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.034 mmol, 219.3 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.344 mmol, 70 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 2-chloro-4-iodopyridine | 0.413 mmol, 99.09 mg | ClC1=NC=CC(=C1)I | C5H3ClIN
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | Copper iodide | 0.034 mmol, 6.5 mg | [Cu](I)I
solvent | MeOH | CO | CH4O
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(2-chloropyridin-4-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 42 mg, 41% yield | ClC1=NC=CC(=C1)N1C(N(CC1)C=1C=NC=CC1C1CC1)=O | C16H15ClN4O
